US09255110B2
A solution of lithium aluminum hydride (1 M in THF, 4 mL) was added at 0° C. to a solution of (E)-3-(3-amino-4-methoxy-phenyl)-acrylic acid methyl ester (400 mg) in tetrahydrofuran (10 mL) and the resulting mixture was stirred for 15 minutes. The reaction mixture was then quenched by addition of a saturated aqueous solution of ammonium chloride, the resulting mixture was filtered and the filter cake was washed with ethyl acetate. The filtrate was separated and the organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to afford 90 mg of (E)-3-(3-amino-4-methoxy-phenyl)-prop-2-en-1-ol without further purifications.

reactant | lithium aluminum hydride | 1 M, 4 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (E)-3-(3-amino-4-methoxy-phenyl)-acrylic acid methyl ester | 400 mg | COC(\C=C\C1=CC(=C(C=C1)OC)N)=O | C11H13NO3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (E)-3-(3-amino-4-methoxy-phenyl)-prop-2-en-1-ol | 90 mg | NC=1C=C(C=CC1OC)/C=C/CO | C10H13NO2
